US05298663
Dry sodium hydride (0.42 g) is suspended in 50 ml of dry tetrahydrofuran under an argon atmosphere. To this stirred suspension is added 3.6 g (0.017 mol) of tertiary-butyl(diethoxymethyl)-phosphine oxide dissolved in 25 ml of dry tetrahydrofuran, at room temperature. Stirring is continued for 10 minutes at room temperature, during which time the solid dissolves and a gas is evolved. To the clear solution obtained is added a solution of 2.4 g (0.017 mol) of iso-butyl bromide in 25 ml of dry tetrahydrofuran. After the addition is complete, the reaction mixture is heated under reflux for 15 hours, then allowed to cool at room temperature and washed with 20 ml of water. The organic extracts are dried and evaporated under reduced pressure. The crude product is purified by chromatography on silica using ethyl acetate as eluent to give tertiary-butyl-(iso-butyl)(diethoxymethyl)phosphine oxide as a colourless oil.

reactant | sodium hydride | 0.42 g | [H-].[Na+]
reactant | tertiary-butyl(diethoxymethyl)-phosphine oxide | 0.017 mol, 3.6 g | C(C)(C)(C)P(C(OCC)OCC)=O | C9H21O3P
reactant | iso-butyl bromide | 0.017 mol, 2.4 g | C(C(C)C)Br | C4H9Br
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | tertiary-butyl-(iso-butyl)(diethoxymethyl)phosphine oxide | C(C)(C)(C)P(C(OCC)OCC)(CC(C)C)=O | C13H29O3P
